### PR TITLE
feat(NumberTheory/Divisors): more on int divisors

### PR DESCRIPTION
**Pull request by upobir**
This PR continues the work from #25209.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25209

### CODE REVIEW

**Comment by upobir** [comment]
## Comments from Original PR #25209

*This section contains 2 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-05-26 13:13 UTC](https://github.com/leanprover-community/mathlib4/pull/25209#issuecomment-2909716314)):
### PR summary [f24926e306](https://github.com/leanprover-community/mathlib4/pull/25209/commits/f24926e306aaa0a5138d6abfcdf19d40ac3f2963)

<details><summary>

#### Import changes for modified files

</summary>

Dependency changes

| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.NumberTheory.Divisors | 687 | 691 | +4 (+0.58%) |


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
|<details><summary>561 files</summary> `Mathlib.Algebra.Algebra.ZMod` `Mathlib.Algebra.BrauerGroup.Defs` `Mathlib.Algebra.Category.ModuleCat.Differentials.Basic` `Mathlib.Algebra.Category.ModuleCat.Differentials.Presheaf` `Mathlib.Algebra.Category.ModuleCat.ExteriorPower` `Mathlib.Algebra.CharP.CharAndCard` `Mathlib.Algebra.CharP.LinearMaps` `Mathlib.Algebra.CharP.Quotient` `Mathlib.Algebra.CharP.Two` `Mathlib.Algebra.DirectSum.LinearMap` `Mathlib.Algebra.Field.NegOnePow` `Mathlib.Algebra.Field.Periodic` `Mathlib.Algebra.Field.ZMod` `Mathlib.Algebra.GCDMonoid.IntegrallyClosed` `Mathlib.Algebra.Homology.BifunctorAssociator` `Mathlib.Algebra.Homology.BifunctorFlip` `Mathlib.Algebra.Homology.BifunctorHomotopy` `Mathlib.Algebra.Homology.BifunctorShift` `Mathlib.Algebra.Homology.Bifunctor` `Mathlib.Algebra.Homology.ComplexShapeSigns` `Mathlib.Algebra.Homology.DerivedCategory.Basic` `Mathlib.Algebra.Homology.DerivedCategory.ExactFunctor` `Mathlib.Algebra.Homology.DerivedCategory.Ext.Basic` `Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives` `Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughProjectives` `Mathlib.Algebra.Homology.DerivedCategory.Ext.ExactSequences` `Mathlib.Algebra.Homology.DerivedCategory.Ext.ExtClass` `Mathlib.Algebra.Homology.DerivedCategory.Fractions` `Mathlib.Algebra.Homology.DerivedCategory.FullyFaithful` `Mathlib.Algebra.Homology.DerivedCategory.HomologySequence` `Mathlib.Algebra.Homology.DerivedCategory.ShortExact` `Mathlib.Algebra.Homology.DerivedCategory.SingleTriangle` `Mathlib.Algebra.Homology.Embedding.CochainComplex` `Mathlib.Algebra.Homology.HomotopyCategory.DegreewiseSplit` `Mathlib.Algebra.Homology.HomotopyCategory.HomComplexShift` `Mathlib.Algebra.Homology.HomotopyCategory.HomComplex` `Mathlib.Algebra.Homology.HomotopyCategory.HomologicalFunctor` `Mathlib.Algebra.Homology.HomotopyCategory.MappingCone` `Mathlib.Algebra.Homology.HomotopyCategory.Pretriangulated` `Mathlib.Algebra.Homology.HomotopyCategory.ShiftSequence` `Mathlib.Algebra.Homology.HomotopyCategory.Shift` `Mathlib.Algebra.Homology.HomotopyCategory.ShortExact` `Mathlib.Algebra.Homology.HomotopyCategory.SingleFunctors` `Mathlib.Algebra.Homology.HomotopyCategory.Triangulated` `Mathlib.Algebra.Homology.Monoidal` `Mathlib.Algebra.Homology.TotalComplexShift` `Mathlib.Algebra.Homology.TotalComplexSymmetry` `Mathlib.Algebra.Homology.TotalComplex` `Mathlib.Algebra.Lie.Classical` `Mathlib.Algebra.Lie.Matrix` `Mathlib.Algebra.Lie.SkewAdjoint` `Mathlib.Algebra.Module.DedekindDomain` `Mathlib.Algebra.Module.LinearMap.Polynomial` `Mathlib.Algebra.Module.PID` `Mathlib.Algebra.Module.Presentation.Differentials` `Mathlib.Algebra.Module.Torsion` `Mathlib.Algebra.Module.ZMod` `Mathlib.Algebra.Order.Antidiag.Nat` `Mathlib.Algebra.Order.Chebyshev` `Mathlib.Algebra.Order.Group.Cyclic` `Mathlib.Algebra.Order.ToIntervalMod` `Mathlib.Algebra.Polynomial.Bivariate` `Mathlib.Algebra.Polynomial.Module.FiniteDimensional` `Mathlib.Algebra.Ring.NegOnePow` `Mathlib.Algebra.Ring.Periodic` `Mathlib.AlgebraicGeometry.AffineScheme` `Mathlib.AlgebraicGeometry.AffineTransitionLimit` `Mathlib.AlgebraicGeometry.Cover.MorphismProperty` `Mathlib.AlgebraicGeometry.Cover.Open` `Mathlib.AlgebraicGeometry.Cover.Over` `Mathlib.AlgebraicGeometry.Cover.Sigma` `Mathlib.AlgebraicGeometry.EllipticCurve.Affine.Basic` `Mathlib.AlgebraicGeometry.EllipticCurve.Affine.Formula` `Mathlib.AlgebraicGeometry.EllipticCurve.Affine.Point` `Mathlib.AlgebraicGeometry.EllipticCurve.Affine` `Mathlib.AlgebraicGeometry.EllipticCurve.DivisionPolynomial.Basic` `Mathlib.AlgebraicGeometry.EllipticCurve.DivisionPolynomial.Degree` `Mathlib.AlgebraicGeometry.EllipticCurve.Group` `Mathlib.AlgebraicGeometry.EllipticCurve.IsomOfJ` `Mathlib.AlgebraicGeometry.EllipticCurve.Jacobian.Basic` `Mathlib.AlgebraicGeometry.EllipticCurve.Jacobian.Formula` `Mathlib.AlgebraicGeometry.EllipticCurve.Jacobian.Point` `Mathlib.AlgebraicGeometry.EllipticCurve.Projective.Basic` `Mathlib.AlgebraicGeometry.EllipticCurve.Projective.Formula` `Mathlib.AlgebraicGeometry.EllipticCurve.Projective.Point` `Mathlib.AlgebraicGeometry.FunctionField` `Mathlib.AlgebraicGeometry.GammaSpecAdjunction` `Mathlib.AlgebraicGeometry.GluingOneHypercover` `Mathlib.AlgebraicGeometry.Gluing` `Mathlib.AlgebraicGeometry.IdealSheaf.Basic` `Mathlib.AlgebraicGeometry.IdealSheaf.Subscheme` `Mathlib.AlgebraicGeometry.IdealSheaf` `Mathlib.AlgebraicGeometry.Limits` `Mathlib.AlgebraicGeometry.Modules.Presheaf` `Mathlib.AlgebraicGeometry.Modules.Sheaf` `Mathlib.AlgebraicGeometry.Modules.Tilde` `Mathlib.AlgebraicGeometry.Morphisms.AffineAnd` `Mathlib.AlgebraicGeometry.Morphisms.Affine` `Mathlib.AlgebraicGeometry.Morphisms.Basic` `Mathlib.AlgebraicGeometry.Morphisms.ClosedImmersion` `Mathlib.AlgebraicGeometry.Morphisms.Constructors` `Mathlib.AlgebraicGeometry.Morphisms.FiniteType` `Mathlib.AlgebraicGeometry.Morphisms.IsIso` `Mathlib.AlgebraicGeometry.Morphisms.OpenImmersion` `Mathlib.AlgebraicGeometry.Morphisms.Preimmersion` `Mathlib.AlgebraicGeometry.Morphisms.QuasiCompact` `Mathlib.AlgebraicGeometry.Morphisms.QuasiSeparated` `Mathlib.AlgebraicGeometry.Morphisms.RingHomProperties` `Mathlib.AlgebraicGeometry.Morphisms.SurjectiveOnStalks` `Mathlib.AlgebraicGeometry.Morphisms.UnderlyingMap` `Mathlib.AlgebraicGeometry.Noetherian` `Mathlib.AlgebraicGeometry.OpenImmersion` `Mathlib.AlgebraicGeometry.Over` `Mathlib.AlgebraicGeometry.ProjectiveSpectrum.Basic` `Mathlib.AlgebraicGeometry.ProjectiveSpectrum.Scheme` `Mathlib.AlgebraicGeometry.Properties` `Mathlib.AlgebraicGeometry.Pullbacks` `Mathlib.AlgebraicGeometry.ResidueField` `Mathlib.AlgebraicGeometry.Restrict` `Mathlib.AlgebraicGeometry.Scheme` `Mathlib.AlgebraicGeometry.Sites.BigZariski` `Mathlib.AlgebraicGeometry.Sites.MorphismProperty` `Mathlib.AlgebraicGeometry.Sites.Representability` `Mathlib.AlgebraicGeometry.Sites.SmallAffineZariski` `Mathlib.AlgebraicGeometry.Sites.Small` `Mathlib.AlgebraicGeometry.Spec` `Mathlib.AlgebraicGeometry.SpreadingOut` `Mathlib.AlgebraicGeometry.Stalk` `Mathlib.AlgebraicGeometry.StructureSheaf` `Mathlib.Analysis.Convex.Birkhoff` `Mathlib.CategoryTheory.Abelian.Projective.Dimension` `Mathlib.CategoryTheory.Localization.Triangulated` `Mathlib.CategoryTheory.Preadditive.Schur` `Mathlib.CategoryTheory.Sites.SheafCohomology.Basic` `Mathlib.CategoryTheory.Triangulated.Adjunction` `Mathlib.CategoryTheory.Triangulated.Functor` `Mathlib.CategoryTheory.Triangulated.HomologicalFunctor` `Mathlib.CategoryTheory.Triangulated.Opposite.Functor` `Mathlib.CategoryTheory.Triangulated.Opposite.Pretriangulated` `Mathlib.CategoryTheory.Triangulated.Pretriangulated` `Mathlib.CategoryTheory.Triangulated.Subcategory` `Mathlib.CategoryTheory.Triangulated.TStructure.Basic` `Mathlib.CategoryTheory.Triangulated.TriangleShift` `Mathlib.CategoryTheory.Triangulated.Triangulated` `Mathlib.CategoryTheory.Triangulated.Yoneda` `Mathlib.Combinatorics.Additive.CauchyDavenport` `Mathlib.Combinatorics.Additive.ErdosGinzburgZiv` `Mathlib.Combinatorics.Configuration` `Mathlib.Combinatorics.SimpleGraph.Bipartite` `Mathlib.Combinatorics.SimpleGraph.DegreeSum` `Mathlib.Combinatorics.SimpleGraph.Matching` `Mathlib.Combinatorics.SimpleGraph.Tutte` `Mathlib.Combinatorics.SimpleGraph.UniversalVerts` `Mathlib.Data.Complex.Determinant` `Mathlib.Data.Complex.Orientation` `Mathlib.Data.Matrix.DoublyStochastic` `Mathlib.Data.Matrix.Kronecker` `Mathlib.Data.Matrix.Rank` `Mathlib.Data.Nat.Choose.Lucas` `Mathlib.Data.Nat.Factorial.SuperFactorial` `Mathlib.Data.Nat.Periodic` `Mathlib.Data.Nat.Squarefree` `Mathlib.Data.Nat.Totient` `Mathlib.Data.ZMod.Aut` `Mathlib.Data.ZMod.Basic` `Mathlib.Data.ZMod.Coprime` `Mathlib.Data.ZMod.Factorial` `Mathlib.Data.ZMod.IntUnitsPower` `Mathlib.Data.ZMod.QuotientGroup` `Mathlib.Data.ZMod.QuotientRing` `Mathlib.Data.ZMod.Units` `Mathlib.Data.ZMod.ValMinAbs` `Mathlib.FieldTheory.AbelRuffini` `Mathlib.FieldTheory.AbsoluteGaloisGroup` `Mathlib.FieldTheory.AlgebraicClosure` `Mathlib.FieldTheory.AxGrothendieck` `Mathlib.FieldTheory.CardinalEmb` `Mathlib.FieldTheory.Cardinality` `Mathlib.FieldTheory.ChevalleyWarning` `Mathlib.FieldTheory.Differential.Basic` `Mathlib.FieldTheory.Differential.Liouville` `Mathlib.FieldTheory.Extension` `Mathlib.FieldTheory.Finite.Basic` `Mathlib.FieldTheory.Finite.GaloisField` `Mathlib.FieldTheory.Finite.Polynomial` `Mathlib.FieldTheory.Finite.Trace` `Mathlib.FieldTheory.Fixed` `Mathlib.FieldTheory.Galois.Basic` `Mathlib.FieldTheory.Galois.GaloisClosure` `Mathlib.FieldTheory.Galois.Infinite` `Mathlib.FieldTheory.IntermediateField.Adjoin.Algebra` `Mathlib.FieldTheory.IntermediateField.Adjoin.Basic` `Mathlib.FieldTheory.IntermediateField.Algebraic` `Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure` `Mathlib.FieldTheory.IsAlgClosed.Basic` `Mathlib.FieldTheory.IsAlgClosed.Classification` `Mathlib.FieldTheory.IsAlgClosed.Spectrum` `Mathlib.FieldTheory.IsPerfectClosure` `Mathlib.FieldTheory.IsSepClosed` `Mathlib.FieldTheory.Isaacs` `Mathlib.FieldTheory.JacobsonNoether` `Mathlib.FieldTheory.KrullTopology` `Mathlib.FieldTheory.KummerExtension` `Mathlib.FieldTheory.KummerPolynomial` `Mathlib.FieldTheory.Laurent` `Mathlib.FieldTheory.Minpoly.Field` `Mathlib.FieldTheory.Minpoly.IsConjRoot` `Mathlib.FieldTheory.Minpoly.IsIntegrallyClosed` `Mathlib.FieldTheory.Minpoly.MinpolyDiv` `Mathlib.FieldTheory.Normal.Basic` `Mathlib.FieldTheory.Normal.Closure` `Mathlib.FieldTheory.Normal.Defs` `Mathlib.FieldTheory.NormalizedTrace` `Mathlib.FieldTheory.PerfectClosure` `Mathlib.FieldTheory.Perfect` `Mathlib.FieldTheory.PolynomialGaloisGroup` `Mathlib.FieldTheory.PrimitiveElement` `Mathlib.FieldTheory.PurelyInseparable.Basic` `Mathlib.FieldTheory.PurelyInseparable.Exponent` `Mathlib.FieldTheory.PurelyInseparable.PerfectClosure` `Mathlib.FieldTheory.RatFunc.AsPolynomial` `Mathlib.FieldTheory.RatFunc.Degree` `Mathlib.FieldTheory.Relrank` `Mathlib.FieldTheory.SeparableClosure` `Mathlib.FieldTheory.SeparableDegree` `Mathlib.FieldTheory.Separable` `Mathlib.FieldTheory.SplittingField.Construction` `Mathlib.FieldTheory.SplittingField.IsSplittingField` `Mathlib.GroupTheory.CommutingProbability` `Mathlib.GroupTheory.Coxeter.Inversion` `Mathlib.GroupTheory.Coxeter.Length` `Mathlib.GroupTheory.Exponent` `Mathlib.GroupTheory.FiniteAbelian.Basic` `Mathlib.GroupTheory.FiniteAbelian.Duality` `Mathlib.GroupTheory.FixedPointFree` `Mathlib.GroupTheory.Frattini` `Mathlib.GroupTheory.GroupAction.Period` `Mathlib.GroupTheory.Nilpotent` `Mathlib.GroupTheory.NoncommPiCoprod` `Mathlib.GroupTheory.Order.Min` `Mathlib.GroupTheory.OrderOfElement` `Mathlib.GroupTheory.PGroup` `Mathlib.GroupTheory.Perm.Centralizer` `Mathlib.GroupTheory.Perm.Closure` `Mathlib.GroupTheory.Perm.ConjAct` `Mathlib.GroupTheory.Perm.Cycle.Basic` `Mathlib.GroupTheory.Perm.Cycle.Concrete` `Mathlib.GroupTheory.Perm.Cycle.Factors` `Mathlib.GroupTheory.Perm.Cycle.PossibleTypes` `Mathlib.GroupTheory.Perm.Cycle.Type` `Mathlib.GroupTheory.Perm.Fin` `Mathlib.GroupTheory.Perm.Finite` `Mathlib.GroupTheory.Schreier` `Mathlib.GroupTheory.SchurZassenhaus` `Mathlib.GroupTheory.SpecificGroups.Alternating.Centralizer` `Mathlib.GroupTheory.SpecificGroups.Alternating` `Mathlib.GroupTheory.SpecificGroups.Cyclic` `Mathlib.GroupTheory.SpecificGroups.Dihedral` `Mathlib.GroupTheory.SpecificGroups.KleinFour` `Mathlib.GroupTheory.SpecificGroups.Quaternion` `Mathlib.GroupTheory.SpecificGroups.ZGroup` `Mathlib.GroupTheory.Sylow` `Mathlib.GroupTheory.Torsion` `Mathlib.GroupTheory.Transfer` `Mathlib.LinearAlgebra.AffineSpace.Matrix` `Mathlib.LinearAlgebra.AnnihilatingPolynomial` `Mathlib.LinearAlgebra.Charpoly.BaseChange` `Mathlib.LinearAlgebra.Charpoly.Basic` `Mathlib.LinearAlgebra.Charpoly.ToMatrix` `Mathlib.LinearAlgebra.CliffordAlgebra.BaseChange` `Mathlib.LinearAlgebra.CliffordAlgebra.Basic` `Mathlib.LinearAlgebra.CliffordAlgebra.CategoryTheory` `Mathlib.LinearAlgebra.CliffordAlgebra.Conjugation` `Mathlib.LinearAlgebra.CliffordAlgebra.Contraction` `Mathlib.LinearAlgebra.CliffordAlgebra.Equivs` `Mathlib.LinearAlgebra.CliffordAlgebra.EvenEquiv` `Mathlib.LinearAlgebra.CliffordAlgebra.Even` `Mathlib.LinearAlgebra.CliffordAlgebra.Fold` `Mathlib.LinearAlgebra.CliffordAlgebra.Grading` `Mathlib.LinearAlgebra.CliffordAlgebra.Inversion` `Mathlib.LinearAlgebra.CliffordAlgebra.Prod` `Mathlib.LinearAlgebra.CliffordAlgebra.SpinGroup` `Mathlib.LinearAlgebra.CliffordAlgebra.Star` `Mathlib.LinearAlgebra.CrossProduct` `Mathlib.LinearAlgebra.Determinant` `Mathlib.LinearAlgebra.Dimension.Torsion.Basic` `Mathlib.LinearAlgebra.Dimension.Torsion.Finite` `Mathlib.LinearAlgebra.Eigenspace.Minpoly` `Mathlib.LinearAlgebra.Eigenspace.Pi` `Mathlib.LinearAlgebra.Eigenspace.Semisimple` `Mathlib.LinearAlgebra.Eigenspace.Triangularizable` `Mathlib.LinearAlgebra.Eigenspace.Zero` `Mathlib.LinearAlgebra.ExteriorAlgebra.Basic` `Mathlib.LinearAlgebra.ExteriorAlgebra.Grading` `Mathlib.LinearAlgebra.ExteriorAlgebra.OfAlternating` `Mathlib.LinearAlgebra.ExteriorPower.Basic` `Mathlib.LinearAlgebra.ExteriorPower.Pairing` `Mathlib.LinearAlgebra.FiniteSpan` `Mathlib.LinearAlgebra.FreeModule.Determinant` `Mathlib.LinearAlgebra.FreeModule.Finite.CardQuotient` `Mathlib.LinearAlgebra.FreeModule.Finite.Quotient` `Mathlib.LinearAlgebra.FreeModule.IdealQuotient` `Mathlib.LinearAlgebra.FreeModule.Int` `Mathlib.LinearAlgebra.FreeModule.ModN` `Mathlib.LinearAlgebra.FreeModule.Norm` `Mathlib.LinearAlgebra.JordanChevalley` `Mathlib.LinearAlgebra.Lagrange` `Mathlib.LinearAlgebra.Matrix.AbsoluteValue` `Mathlib.LinearAlgebra.Matrix.Adjugate` `Mathlib.LinearAlgebra.Matrix.BaseChange` `Mathlib.LinearAlgebra.Matrix.Basis` `Mathlib.LinearAlgebra.Matrix.BilinearForm` `Mathlib.LinearAlgebra.Matrix.Block` `Mathlib.LinearAlgebra.Matrix.Charpoly.Basic` `Mathlib.LinearAlgebra.Matrix.Charpoly.Coeff` `Mathlib.LinearAlgebra.Matrix.Charpoly.Eigs` `Mathlib.LinearAlgebra.Matrix.Charpoly.FiniteField` `Mathlib.LinearAlgebra.Matrix.Charpoly.LinearMap` `Mathlib.LinearAlgebra.Matrix.Charpoly.Minpoly` `Mathlib.LinearAlgebra.Matrix.Charpoly.Univ` `Mathlib.LinearAlgebra.Matrix.Determinant.Basic` `Mathlib.LinearAlgebra.Matrix.Determinant.Misc` `Mathlib.LinearAlgebra.Matrix.Determinant.TotallyUnimodular` `Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Basic` `Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Card` `Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs` `Mathlib.LinearAlgebra.Matrix.Gershgorin` `Mathlib.LinearAlgebra.Matrix.IsDiag` `Mathlib.LinearAlgebra.Matrix.MvPolynomial` `Mathlib.LinearAlgebra.Matrix.Nondegenerate` `Mathlib.LinearAlgebra.Matrix.NonsingularInverse` `Mathlib.LinearAlgebra.Matrix.Permutation` `Mathlib.LinearAlgebra.Matrix.Polynomial` `Mathlib.LinearAlgebra.Matrix.ProjectiveSpecialLinearGroup` `Mathlib.LinearAlgebra.Matrix.Reindex` `Mathlib.LinearAlgebra.Matrix.SesquilinearForm` `Mathlib.LinearAlgebra.Matrix.SpecialLinearGroup` `Mathlib.LinearAlgebra.Matrix.Swap` `Mathlib.LinearAlgebra.Matrix.ToLinearEquiv` `Mathlib.LinearAlgebra.Matrix.Transvection` `Mathlib.LinearAlgebra.Matrix.ZPow` `Mathlib.LinearAlgebra.Orientation` `Mathlib.LinearAlgebra.PID` `Mathlib.LinearAlgebra.PerfectPairing.Restrict` `Mathlib.LinearAlgebra.Projectivization.Constructions` `Mathlib.LinearAlgebra.QuadraticForm.Basic` `Mathlib.LinearAlgebra.QuadraticForm.Basis` `Mathlib.LinearAlgebra.QuadraticForm.Dual` `Mathlib.LinearAlgebra.QuadraticForm.IsometryEquiv` `Mathlib.LinearAlgebra.QuadraticForm.Isometry` `Mathlib.LinearAlgebra.QuadraticForm.Prod` `Mathlib.LinearAlgebra.QuadraticForm.QuadraticModuleCat.Monoidal` `Mathlib.LinearAlgebra.QuadraticForm.QuadraticModuleCat.Symmetric` `Mathlib.LinearAlgebra.QuadraticForm.QuadraticModuleCat` `Mathlib.LinearAlgebra.QuadraticForm.TensorProduct.Isometries` `Mathlib.LinearAlgebra.QuadraticForm.TensorProduct` `Mathlib.LinearAlgebra.Reflection` `Mathlib.LinearAlgebra.RootSystem.BaseChange` `Mathlib.LinearAlgebra.RootSystem.Base` `Mathlib.LinearAlgebra.RootSystem.Basic` `Mathlib.LinearAlgebra.RootSystem.CartanMatrix` `Mathlib.LinearAlgebra.RootSystem.Defs` `Mathlib.LinearAlgebra.RootSystem.Finite.CanonicalBilinear` `Mathlib.LinearAlgebra.RootSystem.Finite.G2` `Mathlib.LinearAlgebra.RootSystem.Finite.Lemmas` `Mathlib.LinearAlgebra.RootSystem.Finite.Nondegenerate` `Mathlib.LinearAlgebra.RootSystem.Hom` `Mathlib.LinearAlgebra.RootSystem.Irreducible` `Mathlib.LinearAlgebra.RootSystem.IsValuedIn` `Mathlib.LinearAlgebra.RootSystem.OfBilinear` `Mathlib.LinearAlgebra.RootSystem.Reduced` `Mathlib.LinearAlgebra.RootSystem.RootPairingCat` `Mathlib.LinearAlgebra.RootSystem.RootPositive` `Mathlib.LinearAlgebra.RootSystem.WeylGroup` `Mathlib.LinearAlgebra.Semisimple` `Mathlib.LinearAlgebra.SymplecticGroup` `Mathlib.LinearAlgebra.TensorProduct.Graded.External` `Mathlib.LinearAlgebra.TensorProduct.Graded.Internal` `Mathlib.LinearAlgebra.TensorProduct.Matrix` `Mathlib.LinearAlgebra.Trace` `Mathlib.LinearAlgebra.UnitaryGroup` `Mathlib.LinearAlgebra.Vandermonde` `Mathlib.ModelTheory.Algebra.Field.IsAlgClosed` `Mathlib.ModelTheory.Algebra.Ring.Definability` `Mathlib.NumberTheory.ArithmeticFunction` `Mathlib.NumberTheory.DirichletCharacter.Basic` `Mathlib.NumberTheory.DirichletCharacter.Bounds` `Mathlib.NumberTheory.DirichletCharacter.Orthogonality` `Mathlib.NumberTheory.FLT.Four` `Mathlib.NumberTheory.FactorisationProperties` `Mathlib.NumberTheory.FermatPsp` `Mathlib.NumberTheory.FunctionField` `Mathlib.NumberTheory.KummerDedekind` `Mathlib.NumberTheory.LegendreSymbol.Basic` `Mathlib.NumberTheory.LegendreSymbol.QuadraticChar.Basic` `Mathlib.NumberTheory.LegendreSymbol.ZModChar` `Mathlib.NumberTheory.LucasLehmer` `Mathlib.NumberTheory.LucasPrimality` `Mathlib.NumberTheory.MaricaSchoenheim` `Mathlib.NumberTheory.ModularForms.CongruenceSubgroups` `Mathlib.NumberTheory.MulChar.Basic` `Mathlib.NumberTheory.MulChar.Duality` `Mathlib.NumberTheory.NumberField.Basic` `Mathlib.NumberTheory.NumberField.FractionalIdeal` `Mathlib.NumberTheory.NumberField.Norm` `Mathlib.NumberTheory.Padics.PadicNorm` `Mathlib.NumberTheory.Padics.PadicVal.Basic` `Mathlib.NumberTheory.PrimeCounting` `Mathlib.NumberTheory.PythagoreanTriples` `Mathlib.NumberTheory.RamificationInertia.Basic` `Mathlib.NumberTheory.RamificationInertia.Galois` `Mathlib.NumberTheory.SelbergSieve` `Mathlib.NumberTheory.SmoothNumbers` `Mathlib.NumberTheory.SumFourSquares` `Mathlib.NumberTheory.Wilson` `Mathlib.RepresentationTheory.Character` `Mathlib.RepresentationTheory.FDRep` `Mathlib.RepresentationTheory.GroupCohomology.Functoriality` `Mathlib.RepresentationTheory.GroupCohomology.Hilbert90` `Mathlib.RepresentationTheory.GroupCohomology.LowDegree` `Mathlib.RepresentationTheory.Invariants` `Mathlib.RepresentationTheory.Tannaka` `Mathlib.RingTheory.AdicCompletion.Algebra` `Mathlib.RingTheory.AdicCompletion.Exactness` `Mathlib.RingTheory.AdicCompletion.Functoriality` `Mathlib.RingTheory.Adjoin.Field` `Mathlib.RingTheory.Adjoin.PowerBasis` `Mathlib.RingTheory.AdjoinRoot` `Mathlib.RingTheory.Algebraic.Integral` `Mathlib.RingTheory.AlgebraicIndependent.Adjoin` `Mathlib.RingTheory.AlgebraicIndependent.AlgebraicClosure` `Mathlib.RingTheory.AlgebraicIndependent.RankAndCardinality` `Mathlib.RingTheory.AlgebraicIndependent.TranscendenceBasis` `Mathlib.RingTheory.Binomial` `Mathlib.RingTheory.ClassGroup` `Mathlib.RingTheory.Complex` `Mathlib.RingTheory.DedekindDomain.AdicValuation` `Mathlib.RingTheory.DedekindDomain.Basic` `Mathlib.RingTheory.DedekindDomain.Different` `Mathlib.RingTheory.DedekindDomain.Dvr` `Mathlib.RingTheory.DedekindDomain.Factorization` `Mathlib.RingTheory.DedekindDomain.FiniteAdeleRing` `Mathlib.RingTheory.DedekindDomain.Ideal` `Mathlib.RingTheory.DedekindDomain.IntegralClosure` `Mathlib.RingTheory.DedekindDomain.PID` `Mathlib.RingTheory.DedekindDomain.SInteger` `Mathlib.RingTheory.DedekindDomain.SelmerGroup` `Mathlib.RingTheory.Derivation.MapCoeffs` `Mathlib.RingTheory.DiscreteValuationRing.TFAE` `Mathlib.RingTheory.Discriminant` `Mathlib.RingTheory.Etale.Basic` `Mathlib.RingTheory.Etale.Pi` `Mathlib.RingTheory.Extension.Basic` `Mathlib.RingTheory.Extension.Cotangent.Basic` `Mathlib.RingTheory.Extension.Cotangent.LocalizationAway` `Mathlib.RingTheory.Extension.Generators` `Mathlib.RingTheory.Extension.Presentation.Basic` `Mathlib.RingTheory.Fintype` `Mathlib.RingTheory.FractionalIdeal.Norm` `Mathlib.RingTheory.HopkinsLevitzki` `Mathlib.RingTheory.Ideal.Cotangent` `Mathlib.RingTheory.Ideal.GoingUp` `Mathlib.RingTheory.Ideal.Height` `Mathlib.RingTheory.Ideal.KrullsHeightTheorem` `Mathlib.RingTheory.Ideal.Norm.AbsNorm` `Mathlib.RingTheory.Ideal.Norm.RelNorm` `Mathlib.RingTheory.IntegralClosure.Algebra.Basic` `Mathlib.RingTheory.IntegralClosure.IntegralRestrict` `Mathlib.RingTheory.IntegralClosure.IntegrallyClosed` `Mathlib.RingTheory.IntegralClosure.IsIntegralClosure.Basic` `Mathlib.RingTheory.IntegralDomain` `Mathlib.RingTheory.Invariant.Basic` `Mathlib.RingTheory.Invariant` `Mathlib.RingTheory.IsAdjoinRoot` `Mathlib.RingTheory.Jacobson.Artinian` `Mathlib.RingTheory.Jacobson.Ring` `Mathlib.RingTheory.Kaehler.Basic` `Mathlib.RingTheory.Kaehler.JacobiZariski` `Mathlib.RingTheory.Kaehler.Polynomial` `Mathlib.RingTheory.Kaehler.TensorProduct` `Mathlib.RingTheory.KrullDimension.Module` `Mathlib.RingTheory.KrullDimension.NonZeroDivisors` `Mathlib.RingTheory.KrullDimension.Zero` `Mathlib.RingTheory.LocalProperties.IntegrallyClosed` `Mathlib.RingTheory.Localization.Away.AdjoinRoot` `Mathlib.RingTheory.Localization.Integral` `Mathlib.RingTheory.Localization.NormTrace` `Mathlib.RingTheory.MatrixAlgebra` `Mathlib.RingTheory.MatrixPolynomialAlgebra` `Mathlib.RingTheory.NoetherNormalization` `Mathlib.RingTheory.Norm.Basic` `Mathlib.RingTheory.Norm.Defs` `Mathlib.RingTheory.Norm.Transitivity` `Mathlib.RingTheory.NormTrace` `Mathlib.RingTheory.Nullstellensatz` `Mathlib.RingTheory.Polynomial.Chebyshev` `Mathlib.RingTheory.Polynomial.Dickson` `Mathlib.RingTheory.Polynomial.GaussLemma` `Mathlib.RingTheory.Polynomial.RationalRoot` `Mathlib.RingTheory.Polynomial.SeparableDegree` `Mathlib.RingTheory.PowerBasis` `Mathlib.RingTheory.PowerSeries.Binomial` `Mathlib.RingTheory.RingHom.FinitePresentation` `Mathlib.RingTheory.RingHom.Integral` `Mathlib.RingTheory.RingHom.StandardSmooth` `Mathlib.RingTheory.RootsOfUnity.Basic` `Mathlib.RingTheory.RootsOfUnity.EnoughRootsOfUnity` `Mathlib.RingTheory.RootsOfUnity.Lemmas` `Mathlib.RingTheory.RootsOfUnity.Minpoly` `Mathlib.RingTheory.RootsOfUnity.PrimitiveRoots` `Mathlib.RingTheory.SimpleModule.IsAlgClosed` `Mathlib.RingTheory.Smooth.Basic` `Mathlib.RingTheory.Smooth.Kaehler` `Mathlib.RingTheory.Smooth.Pi` `Mathlib.RingTheory.Smooth.StandardSmoothCotangent` `Mathlib.RingTheory.Smooth.StandardSmooth` `Mathlib.RingTheory.Spectrum.Maximal.Topology` `Mathlib.RingTheory.Spectrum.Prime.ChevalleyComplexity` `Mathlib.RingTheory.Spectrum.Prime.ConstructibleSet` `Mathlib.RingTheory.Spectrum.Prime.IsOpenComapC` `Mathlib.RingTheory.Spectrum.Prime.Jacobson` `Mathlib.RingTheory.Spectrum.Prime.Module` `Mathlib.RingTheory.Spectrum.Prime.Noetherian` `Mathlib.RingTheory.Spectrum.Prime.Polynomial` `Mathlib.RingTheory.Spectrum.Prime.TensorProduct` `Mathlib.RingTheory.Spectrum.Prime.Topology` `Mathlib.RingTheory.Trace.Basic` `Mathlib.RingTheory.Trace.Defs` `Mathlib.RingTheory.Trace.Quotient` `Mathlib.RingTheory.Unramified.Basic` `Mathlib.RingTheory.Unramified.Pi` `Mathlib.RingTheory.Valuation.AlgebraInstances` `Mathlib.RingTheory.Valuation.Integral` `Mathlib.RingTheory.Valuation.LocalSubring` `Mathlib.RingTheory.Valuation.Minpoly` `Mathlib.RingTheory.WittVector.Basic` `Mathlib.RingTheory.WittVector.Complete` `Mathlib.RingTheory.WittVector.Defs` `Mathlib.RingTheory.WittVector.DiscreteValuationRing` `Mathlib.RingTheory.WittVector.Domain` `Mathlib.RingTheory.WittVector.FrobeniusFractionField` `Mathlib.RingTheory.WittVector.Frobenius` `Mathlib.RingTheory.WittVector.Identities` `Mathlib.RingTheory.WittVector.InitTail` `Mathlib.RingTheory.WittVector.IsPoly` `Mathlib.RingTheory.WittVector.Isocrystal` `Mathlib.RingTheory.WittVector.MulCoeff` `Mathlib.RingTheory.WittVector.MulP` `Mathlib.RingTheory.WittVector.StructurePolynomial` `Mathlib.RingTheory.WittVector.Teichmuller` `Mathlib.RingTheory.WittVector.Truncated` `Mathlib.RingTheory.WittVector.Verschiebung` `Mathlib.RingTheory.WittVector.WittPolynomial` `Mathlib.RingTheory.ZMod` `Mathlib.SetTheory.Nimber.Field` `Mathlib.Tactic.ReduceModChar` `Mathlib.Topology.Algebra.Module.Determinant` `Mathlib.Topology.Algebra.Ring.Compact` `Mathlib.Topology.Algebra.Valued.WithVal` `Mathlib.Topology.ContinuousMap.Periodic` `Mathlib.Topology.Instances.Matrix`</details>|1|
| `Mathlib.Data.Nat.Factorization.PrimePow`|3|
| `Mathlib.Data.Finset.NatDivisors` `Mathlib.NumberTheory.Divisors`|4|

</details>

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ abs_le_abs_of_mem_divisors`
`+ divisors`
`+ divisors_eq`
`+ divisors_eq_empty`
`+ divisors_subset_of_dvd`
`+ divisors_zero`
`+ dvd_of_divisors_subset`
`+ dvd_of_mem_divisors`
`+ filter_dvd_eq_divisors`
`+ map_div_left_divisors`
`+ map_div_right_divisors`
`+ mem_divisors`
`+ mem_divisors_self`
`+ neg_divisors_eq_divisors`
`+ neg_mem_divisors`
`+ neg_mem_divisors_self`
`+ neg_one_mem_divisors`
`+ nonempty_divisors`
`+ one_mem_divisors`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@upobir** ([2025-05-26 14:38 UTC](https://github.com/leanprover-community/mathlib4/pull/25209#issuecomment-2909967912)):
> Could you add the connection between `divisorsAntidiag` and `divisors`? I think we have it for `Nat` already.

added the mapping theorems `map_div_right_divisors` and `map_div_left_divisors` , almost same as the nat one with minor changes in proof.

File: Mathlib/NumberTheory/Divisors.lean [hunk 1]
```diff
@@ -26,6 +26,10 @@ Let `n : ℕ`. All of the following definitions are in the `Nat` namespace:
 * `divisorsAntidiagonal n` is the `Finset` of pairs `(x,y)` such that `x * y = n`.
 * `Perfect n` is true when `n` is positive and the sum of `properDivisors n` is `n`.
 
+similarly let `z : ℤ`. All of the following definitions are in the `Int` namespace:
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
Similarly let `z : ℤ`. All of the following definitions are in the `Int` namespace:
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 2]
```diff
@@ -26,6 +26,10 @@ Let `n : ℕ`. All of the following definitions are in the `Nat` namespace:
...
+* `divisors n` is the `Finset` of natural numbers that divide `n`.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]: According to the code below, it is actually the `Finset` of *integers* dividing `n`. Please clarify (and also mention this in the docstring of `Int.divisors`).

File: Mathlib/NumberTheory/Divisors.lean [hunk 3]
```diff
@@ -603,6 +607,19 @@ local notation "natCast" => Nat.castEmbedding (R := ℤ)
...
+  | (n : ℕ) =>
+    let s : Finset ℕ := n.divisors
+    (s.map natCast).disjUnion (s.map negNatCast) <| by
+      simp +contextual [disjoint_left, s, -Nat.mem_divisors]
+      exact fun a ha b hb hb_ne_zero ha_zero ↦ by simp [ha_zero] at ha
+  | negSucc n =>
+    let s : Finset ℕ := (n + 1).divisors
+    (s.map natCast).disjUnion (s.map negNatCast) <| by
+      simp +contextual [disjoint_left, s, -Nat.mem_divisors]
+      exact fun a ha b hb hb_ne_zero ha_zero ↦ by simp [ha_zero] at ha
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]: This repeats the code from the first case. Maybe first define `Nat.intDivisors n` to be the `Finset` of integers dividing the natural number `n` and then use that twice?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Divisors.lean]: Or maybe use the disjoint union of `z.natAbs.divisors` and the set of negatives.

File: Mathlib/NumberTheory/Divisors.lean [hunk 4]
```diff
@@ -619,6 +636,89 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+@[simp]
+lemma nonempty_divisors : z.divisors.Nonempty ↔ z ≠ 0 :=
+  ⟨fun ⟨m, hm⟩ hn ↦ by simp [hn] at hm, fun hn ↦ ⟨1, one_mem_divisors.2 hn⟩⟩
+
+@[simp]
+lemma divisors_eq_empty : divisors z = ∅ ↔ z = 0 :=
+  not_nonempty_iff_eq_empty.symm.trans nonempty_divisors.not_left
+
+theorem divisors_subset_of_dvd (hzero : z ≠ 0) (h : x ∣ z) : divisors x ⊆ divisors z :=
+  Finset.subset_iff.2 fun _y hy => mem_divisors.mpr ⟨(mem_divisors.mp hy).1.trans h, hzero⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  Finset.subset_iff.2 fun _y hy ↦ mem_divisors.mpr ⟨(mem_divisors.mp hy).1.trans h, hzero⟩
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 5]
```diff
@@ -724,6 +824,27 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
         (n.divisorsAntidiagonal.map <| .prodMap negNatCast negNatCast) (by
           simp +contextual [disjoint_left, eq_comm]) := rfl
 
+theorem map_div_right_divisors :
+    z.divisors.map ⟨fun d => (d, z / d), fun _ _ => congr_arg Prod.fst⟩ =
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    z.divisors.map ⟨fun d => (d, z / d), fun _ _ ↦ congr_arg Prod.fst⟩ =
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 6]
```diff
@@ -724,6 +824,27 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
...
+    Prod.ext_iff, exists_prop, and_left_comm, exists_eq_left]
+  constructor
+  · rintro ⟨⟨⟨k, rfl⟩, hn⟩, rfl⟩
+    rw [mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left]
+    exact ⟨rfl, hn⟩
+  · rintro ⟨rfl, hn⟩
+    exact ⟨⟨dvd_mul_right _ _, hn⟩, mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left⟩
+
+theorem map_div_left_divisors :
+    z.divisors.map ⟨fun d => (z / d, d), fun _ _ => congr_arg Prod.snd⟩ =
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    z.divisors.map ⟨fun d => (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ =
```

File: Mathlib/NumberTheory/Divisors.lean (hunk 1 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated the comment

File: Mathlib/NumberTheory/Divisors.lean (hunk 2 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: Updated the comments to clearly specify these are finset of integers

File: Mathlib/NumberTheory/Divisors.lean (hunk 3 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated  definition to use `z.natAbs.divisors`, so proof is no longer duplicated. Also golfed the proof of `mem_divisors` to reduce duplication

File: Mathlib/NumberTheory/Divisors.lean (hunk 4 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 6 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 5 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean [hunk 7]
```diff
@@ -637,21 +634,13 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
-  | (negSucc n), (negSucc m) => by
-    simp [divisors]
-    norm_cast
+theorem mem_divisors : ∀ {z x}, x ∈ divisors z ↔ x ∣ z ∧ z ≠ 0 := by
+  rintro z x
+  rw [ne_eq, ← natAbs_eq_zero (a := z), ← natAbs_dvd_natAbs, ← Nat.mem_divisors]
+  simp only [divisors, disjUnion_eq_union, mem_union]
+  match x with
+  | (n : ℕ) => simp
+  | (negSucc n) => simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
theorem mem_divisors {z x} : x ∈ divisors z ↔ x ∣ z ∧ z ≠ 0 := by
  rw [ne_eq, ← natAbs_eq_zero (a := z), ← natAbs_dvd_natAbs, ← Nat.mem_divisors]
  simp only [divisors, disjUnion_eq_union, mem_union]
  obtain ⟨n, rfl | rfl⟩ := x.eq_nat_or_neg <;> simp
```
1) The convention is to have universally quantified arguments and hypothesis "left of the colon" (this saves the "intro" line in the proof).
2) Relying on the implementation details of ℤ is a bit ugly and can be avoided by using the API.

File: Mathlib/NumberTheory/Divisors.lean [hunk 8]
```diff
@@ -619,6 +633,81 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+
+@[simp]
+theorem divisors_zero : divisors 0 = ∅ := by
+  ext
+  simp
+
+@[simp]
+theorem neg_divisors_eq_divisors : (-z).divisors = z.divisors := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
theorem divisors_neg : (-z).divisors = z.divisors := by
```
(It is really `divisors (-z) = divisors z`.)

File: Mathlib/NumberTheory/Divisors.lean [hunk 9]
```diff
@@ -619,6 +633,81 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+  simp
+
+theorem abs_le_abs_of_mem_divisors (h : x ∈ z.divisors) : |x| ≤ |z| := by
+  simp at h
+  wlog hx : 0 ≤ x generalizing x
+  · simpa using this (by simpa) (neg_nonneg.mpr (le_of_not_ge hx))
+  wlog hz : 0 ≤ z generalizing z
+  · simpa using this (by simpa) (neg_nonneg.mpr (le_of_not_ge hz))
+  rw [abs_eq_self.mpr hx, abs_eq_self.mpr hz]
+  exact le_of_dvd (lt_of_le_of_ne hz (Ne.symm h.right)) h.left
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  simp only [← natCast_natAbs]
  rw [mem_divisors] at h
  exact ofNat_le.mpr <| natAbs_le_of_dvd_ne_zero h.1 h.2
```
Going via `natAbs` seems preferable here.

File: Mathlib/NumberTheory/Divisors.lean [hunk 10]
```diff
@@ -619,6 +633,81 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+
+theorem filter_dvd_eq_divisors (h : z ≠ 0) : {x ∈ Icc (-|z|) |z| | x ∣ z} = z.divisors := by
+  ext x
+  simp [and_comm, h]
+  rw [and_comm, ← abs_le]
+  exact fun hxz ↦ abs_le_abs_of_mem_divisors (by simp [hxz, h])
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  simpa [h, ← abs_le] using fun hxz ↦ abs_le_abs_of_mem_divisors (mem_divisors.mpr ⟨hxz, h⟩)
```
The `simp` should be squeezed because it is followed by the "rigid" tactic `rw`.
This can in many cases be avoided by using `simpa` instead.
(And the two `and_comm`s were canceling each other.)

File: Mathlib/NumberTheory/Divisors.lean [hunk 11]
```diff
@@ -619,6 +633,81 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+
+theorem neg_one_mem_divisors : -1 ∈ divisors z ↔ z ≠ 0 := by simp
+
+theorem mem_divisors_self (h : z ≠ 0) : z ∈ z.divisors := by simpa
+
+theorem neg_mem_divisors_self (h : z ≠ 0) : -z ∈ z.divisors := by simpa
+
+theorem dvd_of_mem_divisors (h : x ∈ z.divisors) : x ∣ z := by
+  simp at h
+  exact h.left
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
theorem dvd_of_mem_divisors (h : x ∈ z.divisors) : x ∣ z :=
  (mem_divisors.mp h).left
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 12]
```diff
@@ -619,6 +633,81 @@ def divisorsAntidiag : (z : ℤ) → Finset (ℤ × ℤ)
...
+@[simp]
+theorem divisors_eq : x.divisors = y.divisors ↔ |x| = |y| := by
+  obtain rfl | hx := Decidable.eq_or_ne x 0
+  · rw [abs_zero, divisors_zero, eq_comm, divisors_eq_empty, eq_comm (a := 0), abs_eq_zero]
+  · constructor <;> rintro h
+    · rw [subset_antisymm_iff] at h
+      refine dvd_antisymm (by simp) (by simp)
+        ((abs_dvd_abs _ _).mpr <| dvd_of_divisors_subset hx h.left)
+        ((abs_dvd_abs _ _).mpr <| dvd_of_divisors_subset ?_ h.right)
+      exact nonempty_divisors.mp <| (nonempty_divisors.mpr hx).mono h.left
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  obtain rfl | hy := eq_or_ne y 0
  · simp
  · refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
    · rw [subset_antisymm_iff] at h
      refine dvd_antisymm (abs_nonneg x) (abs_nonneg y)
        ((abs_dvd_abs _ _).mpr <| dvd_of_divisors_subset ?_ h.left)
        ((abs_dvd_abs _ _).mpr <| dvd_of_divisors_subset hy h.right)
      exact nonempty_divisors.mp <| (nonempty_divisors.mpr hy).mono h.right
```
Doing the case split on `y` enables `simp` to close the first case.

File: Mathlib/NumberTheory/Divisors.lean [hunk 13]
```diff
@@ -724,6 +813,27 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
...
+theorem map_div_right_divisors :
+    z.divisors.map ⟨fun d => (d, z / d), fun _ _ ↦ congr_arg Prod.fst⟩ =
+      z.divisorsAntidiag := by
+  ext ⟨d, nd⟩
+  simp only [mem_map, mem_divisorsAntidiag, Function.Embedding.coeFn_mk, mem_divisors,
+    Prod.ext_iff, exists_prop, and_left_comm, exists_eq_left]
+  constructor
+  · rintro ⟨⟨⟨k, rfl⟩, hn⟩, rfl⟩
+    rw [mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left]
+    exact ⟨rfl, hn⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    z.divisors.map ⟨fun d ↦ (d, z / d), fun _ _ ↦ congr_arg Prod.fst⟩ = z.divisorsAntidiag := by
  ext ⟨d, nd⟩
  simp only [mem_map, mem_divisorsAntidiag, Function.Embedding.coeFn_mk, mem_divisors,
    Prod.ext_iff, and_left_comm, exists_eq_left]
  constructor
  · rintro ⟨⟨⟨k, rfl⟩, hn⟩, rfl⟩
    simp [mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left, hn]
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 14]
```diff
@@ -724,6 +813,27 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
...
+  · rintro ⟨rfl, hn⟩
+    exact ⟨⟨dvd_mul_right _ _, hn⟩, mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left⟩
+
+theorem map_div_left_divisors :
+    z.divisors.map ⟨fun d => (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ =
+      z.divisorsAntidiag := by
+  apply Finset.map_injective (Equiv.prodComm _ _).toEmbedding
+  ext
+  rw [map_prodComm_divisorsAntidiag, ← map_div_right_divisors, Finset.map_map]
+  simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    z.divisors.map ⟨fun d ↦ (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ = z.divisorsAntidiag := by
  apply Finset.map_injective (Equiv.prodComm _ _).toEmbedding
  ext
  simp [← map_div_right_divisors, Finset.map_map]
```

File: Mathlib/NumberTheory/Divisors.lean (hunk 7 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: thanks, updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 8 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 9 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 10 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 12 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 11 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 13 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean (hunk 14 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: I tried this proof but it didn't complete, so couldn't apply this one

File: Mathlib/NumberTheory/Divisors.lean [hunk 15]
```diff
@@ -814,25 +804,22 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
...
-      z.divisorsAntidiag := by
-  apply Finset.map_injective (Equiv.prodComm _ _).toEmbedding
-  ext
-  rw [map_prodComm_divisorsAntidiag, ← map_div_right_divisors, Finset.map_map]
-  simp
+      z.divisors.map ⟨fun d => (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ = z.divisorsAntidiag := by
+    apply Finset.map_injective (Equiv.prodComm _ _).toEmbedding
+    ext
+    rw [map_prodComm_divisorsAntidiag, ← map_div_right_divisors, Finset.map_map]
+    simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  apply Finset.map_injective (Equiv.prodComm _ _).toEmbedding
  ext
  rw [map_prodComm_divisorsAntidiag, ← map_div_right_divisors, Finset.map_map]
  simp
```
(The proof should still be indented by two spaces.)

File: Mathlib/NumberTheory/Divisors.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Divisors.lean]: OK. I tried it in the web editor, but there are sometimes subtle differences...

File: Mathlib/NumberTheory/Divisors.lean (hunk 15 above)
Comment (upobir) [reply Mathlib/NumberTheory/Divisors.lean]: updated

File: Mathlib/NumberTheory/Divisors.lean [hunk 16]
```diff
@@ -599,6 +603,16 @@ local notation "natCast" => Nat.castEmbedding (R := ℤ)
...
 
+/-- `divisors z` is the `Finset` of integer divisors of `z`. By convention, we set
+`divisors 0 = ∅`. -/
+def divisors (z : ℤ) : Finset ℤ :=
+    let s : Finset ℕ := z.natAbs.divisors
+    (s.map natCast).disjUnion (s.map negNatCast) <| by
+      simp +contextual only [disjoint_left, mem_map, Nat.castEmbedding_apply,
+        Function.Embedding.trans_apply, Equiv.coe_toEmbedding, Equiv.neg_apply, not_exists, not_and,
+        forall_exists_index, and_imp, forall_apply_eq_imp_iff₂, Nat.neg_cast_eq_cast, s]
+      exact fun a ha b hb hb_ne_zero ha_zero ↦ by simp [ha_zero] at ha
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  let s : Finset ℕ := z.natAbs.divisors
  (s.map natCast).disjUnion (s.map negNatCast) <| by
    simp +contextual only [disjoint_left, mem_map, Nat.castEmbedding_apply,
      Function.Embedding.trans_apply, Equiv.coe_toEmbedding, Equiv.neg_apply, not_exists, not_and,
      forall_exists_index, and_imp, forall_apply_eq_imp_iff₂, Nat.neg_cast_eq_cast, s]
    exact fun a ha b hb hb_ne_zero ha_zero ↦ by simp [ha_zero] at ha
```
(Defining terms and proofs are indented 2 spaces)

File: Mathlib/NumberTheory/Divisors.lean [hunk 17]
```diff
@@ -720,6 +799,24 @@ lemma divisorsAntidiag_ofNat (n : ℕ) :
...
+  simp only [mem_map, mem_divisorsAntidiag, Function.Embedding.coeFn_mk, mem_divisors,
+    Prod.ext_iff, and_left_comm, exists_eq_left]
+  constructor
+  · rintro ⟨⟨⟨k, rfl⟩, hn⟩, rfl⟩
+    simp [mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left, hn]
+  · rintro ⟨rfl, hn⟩
+    exact ⟨⟨dvd_mul_right _ _, hn⟩, mul_ediv_cancel_left _ (mul_ne_zero_iff.mp hn).left⟩
+
+theorem map_div_left_divisors :
+    z.divisors.map ⟨fun d => (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ = z.divisorsAntidiag := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Divisors.lean:802]:
```suggestion
    z.divisors.map ⟨fun d ↦ (z / d, d), fun _ _ ↦ congr_arg Prod.snd⟩ = z.divisorsAntidiag := by
```

**Comment by eric-wieser** [comment]
I think `Int.divisors` ended up landing in #38345; I've attempted to merge your changes into this, and it seems there are still some useful lemmas this PR adds.
